US08030347B2
(1S*,3S*,3aR*,8bS*)-3a-(4-Bromophenyl)-6,8-diethoxy-3-phenyl-2,3,3a,8b-tetrahydrocyclopenta-[b]benzofuran-1,8b-(1H)-diol
178 ml (17.9 mmol) of a 0.1 M solution of samarium diiodide in THF is cooled to 0° C. under argon, and a solution of 2.60 g (5.10 mmol) of (S*,R*)-3-[2-(4-bromophenyl)-4,6-diethoxy-3-oxo-2,3-dihydrobenzofuran-2-yl]-3-phenylpropanal in 30 ml of degassed THF is added dropwise. The mixture is stirred at 0° C. for 1 h and at RT for 1 h. An ice-cold saturated sodium potassium tartrate solution with 10% potassium carbonate is added, the phases are separated, the aqueous phase is extracted three times with dichloromethane, and the combined organic phases are washed with saturated sodium chloride solution, dried over sodium sulfate, filtered and concentrated. Column chromatography on silica gel 60 (mobile phase: toluene/ethyl acetate 95:5) results in 1.55 g (58% of theory) of the product as racemic mixture.

reactant | samarium diiodide | [I-].[I-].[Sm+2]
reactant | (S*,R*)-3-[2-(4-bromophenyl)-4,6-diethoxy-3-oxo-2,3-dihydrobenzofuran-2-yl]-3-phenylpropanal | 5.10 mmol, 2.60 g | BrC1=CC=C(C=C1)[C@]1(OC2=C(C1=O)C(=CC(=C2)OCC)OCC)[C@@H](CC=O)C2=CC=CC=C2 | C27H25BrO5
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | (1S*,3S*,3aR*,8bS*)-3a-(4-Bromophenyl)-6,8-diethoxy-3-phenyl-2,3,3a,8b-tetrahydrocyclopenta-[b]benzofuran-1,8b-(1H)-diol | BrC1=CC=C(C=C1)[C@@]12OC3=C([C@@]1([C@H](C[C@H]2C2=CC=CC=C2)O)O)C(=CC(=C3)OCC)OCC | C27H27BrO5
